US06002008
4-(4-Hydroxy-2-methyl-phenylamino)-6-methoxy-7-(3-morpholin-4-yl-propoxy)-quinoline-3-carbonitrile
A mixture of 0.3 g of 4chloro-6-methoxy-7-(3-morpholin-4-yl-propoxy)-quinoline-3-carbonitrile derivative, 0.12 g of 4amino-m-cresol, 0.1 g of pyridine hydrochloride and 4 ml of 2-ethoxy ethanol was stirred under nitrogen at reflux temperature for 1.5 hr. The mixture was cooled and added to the mixture of ethyl acetate and saturated solution of sodium bicarbonate, stirred for 15 minutes. Following separation of layers, the organic layer was dried over anhydrous sodium sulfate, filtered and filtrate was evaporated to yield dark oil. The oil was purified by silica gel flash chromatography utilizing a gradient of methylene chloride/methanol (95:5 to 90:10 ) to give 0.23 g of the title compound as a tan solid, mp120-126 C; mass spectrum (electrospray, m/e):M+H 449.

reactant | 4chloro-6-methoxy-7-(3-morpholin-4-yl-propoxy)-quinoline-3-carbonitrile | 0.3 g | ClC1=C(C=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1)C#N | C18H20ClN3O3
reactant | 4amino-m-cresol | 0.12 g | NC=1C(=CC(=CC1)O)C | C7H9NO
reactant | pyridine hydrochloride | 0.1 g | Cl.N1=CC=CC=C1
reactant | 2-ethoxy ethanol | 4 ml | C(C)OCCO | C4H10O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(4-Hydroxy-2-methyl-phenylamino)-6-methoxy-7-(3-morpholin-4-yl-propoxy)-quinoline-3-carbonitrile | 0.23 g | OC1=CC(=C(C=C1)NC1=C(C=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1)C#N)C | C25H28N4O4
